US08541457B2
Preparation of 4-(2-oxopyridin-1(2H)-yl)benzoic acid
A mixture of ethyl 4-(2-oxopyridin-1(2H)-yl)benzoate (0.40 g, 1.64 mmol) and lithium hydroxide (0.28 g, 6.60 mmol) in tetrahydrofuran/water mixture was stirred at 70° C. for 1 h. The organic solvent was removed in vacuo. The water layer was washed with ethyl acetate (25 mL) and then acidified by addition of 15% hydrochloric acid solution. The solid obtained was collected by filtration, washed with water and dried in air to afford the title compound in 85% yield (0.30 g); 1H NMR (300 MHz, DMSO-d6) δ 13.14 (s, 1H), 8.02 (d, J=8.4 Hz, 2H), 7.65 (dd, J=1.9, 6.9 Hz, 1H), 7.51 (d, J=8.5 Hz, 2H), 7.48 (dd, J=1.9, 6.9 Hz, 1H), 6.47 (d, J=9.2 Hz, 1H), 6.31 (dt, J=1.0, 6.9 Hz, 1H).

reactant | ethyl 4-(2-oxopyridin-1(2H)-yl)benzoate | 1.64 mmol, 0.40 g | O=C1N(C=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C14H13NO3
reactant | lithium hydroxide | 6.60 mmol, 0.28 g | [OH-].[Li+]
solvent | tetrahydrofuran water | O1CCCC1.O
product | 4-(2-oxopyridin-1(2H)-yl)benzoic acid | 85% yield | O=C1N(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO3
